US08455488B2
Synthesis of 4-(4-chlorobenzyl)-1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxy-propan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-42)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 80 mg (0.30 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxy-propan-2-yl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-3) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.30 mmol, 80 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxy-propan-2-yl)-N-(quinolin-8-ylmethyl)propanamide | 0.20 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C30H41N3O4
product | 4-(4-chlorobenzyl)-1-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxy-propan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | ClC1=CC=C(CNC(NN(C)CC(=O)N[C@H](C(=O)N(CC=2C=CC=C3C=CC=NC23)[C@H](C(OCC)OCC)C)CC2=CC=C(C=C2)OC(C)(C)C)=O)C=C1 | C41H53ClN6O6
